US04000151
In the manner given in Example 2, 6-chloro-4-phenyl-2-hydrazinoquinoline and triethyl orthoformate are refluxed in xylene to give 7-chloro-5-phenyl-s-triazolo[4,3-a]quinoline of melting point 265°-266.5° C.

reactant | 6-chloro-4-phenyl-2-hydrazinoquinoline | ClC=1C=C2C(=CC(=NC2=CC1)NN)C1=CC=CC=C1 | C15H12ClN3
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 7-chloro-5-phenyl-s-triazolo[4,3-a]quinoline | ClC=1C=C2C(=CC=3N(C2=CC1)C=NN3)C3=CC=CC=C3 | C16H10ClN3
